Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
bee venom (honey bee)
 
Attending: ___.
 
Chief Complaint:
dyspnea, inability to catch a breath
 
Major Surgical or Invasive Procedure:
n/a
 
History of Present Illness:
___ y/o man with a history of atrial fibrillation ( only on ASA 
for anticoagulation), atrial flutter, sick sinus syndrome s/p 
dual chamber pacemaker presented to ED with palpitations. He 
began having palpitations this am along with shortness of 
breath. H feels anxious. These symptoms are similar to prior 
episodes of palpitation but more intense. The episode lasted 
about 6 hrs. He reports recent increase in stress at his job 
which has been a trigger in the past. He saw Dr. ___ in 
clinic ___ weeks ago. device interrogation showed increased AF 
burden. His Sotalol was thought to be ineffective. He was 
started on Diltiazem and Digoxin.  

 
Past Medical History:
1. Paroxysmal atrial fibrillation
2. Paroxysmal nonsustained atrial tachycardia.
3. Atrial flutter, likely with negative P waves in V3 and
isoelectric in V1 in ___
4. Vasovagal syncope.
5. Borderline hypertension with family history of hypertension.
6. Hyperlipidemia.
7. Recent Reveal monitor implantation (___) showing atrial
fibrillation, atrial flutter. He was noted to have multiple
conversion pauses of ___ seconds in duration
8. Dual chamber PPM implantation in ___
 
Social History:
___
Family History:
FAMILY HISTORY:  Grandfather died in ___ of sudden cardiac 
death
 
Physical Exam:
Admission exam:
Gen: Sitting on bed, in NAD
Neuro: Alert/oriented x3, follows all commands, answers 
questions appropriately and no focal deficits
Neck/JVP: (-)JVD, (-)carotid bruits bilaterally
CV: Irregularly irregular, no m/r/g or clicks
Chest: CTA throughout bilaterally, no rales/rhonchi/wheezes or 
rubs
ABD: Soft, NT/ND with +BS throughout
Extr:  +dorsal/pedal pulses by palpation bilaterally
Access sites: PIV
Skin: Intact without varicosities

Discharge exam:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
VS: 97.4 ___ 18 95% RA
tele: A paced, no overnight events
EKG after 6th dose of dofetilide: NSR 69 QTC 435
Gen: ___ yr old man in NAD. Ambulatory in room with no SOB, 
palpitations, dizziness or chest pain
Neck: No JVD
Lungs: CTAB
Heart: S1S2 regular, no MRG
Abd: soft, non-tender, BS +
PV: radial and pedal pulses palpable. No edema. Extremities are 
warm and well perfused
Neuro: alert and oriented, no focal deficits or asymmetries 
noted
 
Pertinent Results:
Admission labs:

___ 09:05PM   GLUCOSE-74 UREA N-14 CREAT-1.0 SODIUM-140 
POTASSIUM-3.7 CHLORIDE-102 TOTAL CO2-27 ANION GAP-15
___ 09:05PM   CALCIUM-9.6 PHOSPHATE-4.7* MAGNESIUM-2.1
___ 09:05PM   WBC-8.0 RBC-4.96 HGB-14.8 HCT-42.8 MCV-86 
MCH-29.8 MCHC-34.6 RDW-13.2 RDWSD-40.8
___ 09:05PM   PLT COUNT-247

Discharge Labs:
___ 06:10AM BLOOD UreaN-12 Creat-1.0 Na-147* K-4.1 Cl-105 
HCO3-23 AnGap-23*
 
Brief Hospital Course:
___ year old male with history of atrial fibrillation who was 
admitted for dofetilide initiation.  He was started on 
dofetilide 500mg TID under supervision of electrophysiology team 
with close QTc monitoring. After his first dose he was found to 
have a prolonged QT and his pace maker rate was increased to 80. 
 He has tolerated all subsequent doses. His EKG on discharge 
after 6th dose of dofetilide: NSR 69 QTC 435. He was discharged 
on 500 mcgs every 12 hrs. He was started on Eliquis 5 mg bid in 
preparation of a PVI ablation next week. His ASA was dc'd. 
The pt has a PMH of bipolar disorder. His Lamicatal was dc'd r/t 
an increased risk of QT prolongation with Dofetilide. He has a 
follow up appointment with his psychiatrist on the morning after 
discharge to find an alternative medication.
Mr. ___ was discharged home in stable condition. The plan 
is to return for a PVI ablation next week.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 10 mg PO QPM 
2. BuPROPion (Sustained Release) 150 mg PO QAM 
3. Digoxin 0.125 mg PO DAILY 
4. Diltiazem Extended-Release 240 mg PO DAILY 
5. LamoTRIgine 200 mg PO DAILY 
6. Aspirin EC 325 mg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID  
2.  Dofetilide 500 mcg PO Q12H  
3.  Magnesium Oxide 400 mg PO DAILY  
4.  Atorvastatin 10 mg PO QPM  
5.  BuPROPion (Sustained Release) 150 mg PO BID  
6.  Diltiazem Extended-Release 240 mg PO DAILY  
7.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Paroxysmal atrial fibrillation
2. Paroxysmal nonsustained atrial tachycardia.
3. Atrial flutter, likely with negative P waves in V3 and
isoelectric in V1 in ___
4. Vasovagal syncope.
5. Borderline hypertension with family history of hypertension.
6. Hyperlipidemia.
7. Recent Reveal monitor implantation (___) showing atrial
fibrillation, atrial flutter. He was noted to have multiple
conversion pauses of ___ seconds in duration
8. Dual chamber PPM implantation in ___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
VS: 97.4 ___ 18 95% RA
tele: A paced, no overnight events
EKG after 6th dose of dofetilide: NSR 69 QTC 435
Gen: ___ yr old man in NAD. Ambulatory in room with no SOB, 
palpitations, dizziness or chest pain
Neck: No JVD
Lungs: CTAB
Heart: S1S2 regular, no MRG
Abd: soft, non-tender, BS +
PV: radial and pedal pulses palpable. No edema. Extremities are 
warm and well perfused
Neuro: alert and oriented, no focal deficits or asymmetries 
noted
A/P:
 ___ year old male with a history of PAF and AFLUTTER not on 
anticoagulation and dual chamber ___ for SSS admitted for 
recurrent symptoms last evening and started on Dofetilide load. 
He had been on Digoxin (discontinued on admission) and failed 
Sotalol. His QTC has remained stable.  He has a history of 
bipolar (not noted on his PMH and verified with review of meds 
pre-hospitalization (on Lamictal) and requires alternative given 
potentiation of QTC and risk of Torsades de pointes. His 
psychiatrist  has been contacted, and pt has a follow up 
appointment tomorrow morning.  
 
 # PAF/AFLUTTER s/p Dofetilide load - clinically stable 
-cont Dofetilide 500 mcg every 12 hrs
-cont Diltiazem
-start Eliquis in anticipation of PVI next week even with low 
CHADS2VASC score. Stop ASA
-PVI next week

#. Bipolar disorder
-cont Buproprion
-follow up with Dr. ___ for alternate to Lamictal 
  
# SSS s/p dual chamber ___  
 - Pacer adjustment as per EP 
 - Continue outpatient management
 
 #. Disp
-DC home

 
Discharge Instructions:
You were admitted to the hospital to treat your  atrial 
fibrillation with the initiation of Dofetilide antiarrhythmic 
medication. Please take this medication the same time every day. 
Other medication changes are listed below:
Medication Changes:
 -Start Dofetilide 500 mcg every 12 hours
 -Start Eliquis to decrease stroke risk in atrial fibrillation. 
It is very important that you do not miss any doses of this 
medication.
 -start Magnesium 400 mg daily
 -Stop Aspirin
 - Stop Lamictal due to an unsafe interaction with Dofetilide
Please keep your appointment tomorrow with Dr. ___. At that 
time he will discuss with you a safe alternative to Lamictal.
You are scheduled to return next ___ for a 
PVI ablation.

 
Followup Instructions:
___